US09260427B2
Prepared using General Procedure 10. Into an oven-dried vial containing lithium formate (58 mg (1.1 mmol) in DMF (5 mL) were added DIEA (400 μL, 2.2 mmol) and acetic anhydride (210 μL, 2.2 mmol). After stirring for 1 h, the reaction mixture was degassed by N2 bubbling. A second, degassed solution containing (S)-tert-butyl 3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoate, INT-14 (200 mg, 0.4 mmol) and PdCl2(dppf) (27 mg, 0.04 mmol) in DMF (5 mL) was added via cannula. The resulting mixture was heated for 1 h at 120° C. in a microwave reactor. The reaction mixture was diluted with 10% citric acid and extracted with EA. The organic extract was dried (Na2SO4), concentrated, and purified by chromatography (EA/hexane) to provide 166 mg (88%) of (S)-2-(4-(3-(tert-butoxy)-2-(4-(tert-butyl)benzamido)-3-oxopropyl)phenyl)pyrimidine-5-carboxylic acid as a brown solid. LCMS-ESI (m/z) calculated for C29H33BN3O5: 503.6. found 504.2 [M+H]+, tR=3.87 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 9.24 (s, 2H), 8.42 (d, J=8.2 Hz, 2H), 7.75 (t, J=11.9 Hz, 2H), 7.45 (d, J=8.4 Hz, 2H), 7.34 (d, J=8.2 Hz, 2H), 6.91 (t, J=11.5 Hz, 1H), 5.12 (dd, J=12.9, 5.5 Hz, 1H), 3.32 (qd, J=13.8, 5.4 Hz, 2H), 1.50 (s, 9H), 1.29 (d, J=29.8 Hz, 9H).

reactant | lithium formate | C(=O)[O-].[Li+]
reactant | DIEA | 2.2 mmol, 400 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic anhydride | 2.2 mmol, 210 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (S)-tert-butyl 3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoate | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)OC(C)(C)C)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C28H32BrN3O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | PdCl2(dppf) | 0.04 mmol, 27 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-2-(4-(3-(tert-butoxy)-2-(4-(tert-butyl)benzamido)-3-oxopropyl)phenyl)pyrimidine-5-carboxylic acid | 166 mg, 88% | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)O)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C29H33N3O5
